US08541407B2
To a solution of the 4-(9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepin-3-yl)benzoic acid (0.5 g, 1.4 mmol) in DMF (5 mL) was added HBTU (0.56 g, 1.4 mmol) follwed by triethylamine (0.392 mL, 2.8 mmol). The reaction mixture was stirred at room temperature for 15 minutes then tert-butyl piperidin-4-ylcarbamate (0.31 g, 1.5 mmol) was added and the mixture stirred at room temperature for an additional 3 hours. The mixture was diluted with ethyl acetate (50 mL) and washed with saturated aqueous sodium bicarbonate solution (50 mL) and brine (50 mL). The organic phase was dried over sodium sulfate, filtered and concentrated in vacuo. The crude product was purified by flash chromatography (SiO2, gradient: 50% ethyl acetate in hexanes to 100% ethyl acetate). The tert-butyl (1-(4-(9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepin-3-yl)benzoyl)piperidin-4-yl)carbamate was obtained as a white solid (0.478 g, 63%). M.p.=196-202° C.; 400 MHz 1H NMR (DMSO-d6) δ: 8.81 (br.s, 1H), 8.22 (dd, J=4.4, 1.6 Hz, 1H), 7.97 (dd, J=7.6, 1.6 Hz, 1H), 7.52-7.4 (m, 5H), 7.35 (d, J=8.0 Hz, 1H), 7.19 (dd, J=8.0, 1.2 Hz, 1H), 7.14 (dd, J=7.6, 1.2 Hz, 1H), 6.93 (dd, J=8.0, 1.6 Hz, 1H), 6.89 (br.s, 1H), 4.35-4.25 (m, 1H), 3.6-3.45 (m, 2H), 3.2-3.05 (m, 1H), 3.02-2.9 (m, 1H), 1.9-1.65 (m, 2H), 1.38 (s, 9H), 1.35-1.15 (m, 2H); LCMS [M+H]: 538.

reactant | 4-(9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepin-3-yl)benzoic acid | 1.4 mmol, 0.5 g | N=1N=C(N2C3=C(NC4=C(C21)C=CC=C4)N=CC=C3)C3=CC=C(C(=O)O)C=C3 | C20H13N5O2
reactant | HBTU | 1.4 mmol, 0.56 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 2.8 mmol, 0.392 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl piperidin-4-ylcarbamate | 1.5 mmol, 0.31 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl (1-(4-(9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepin-3-yl)benzoyl)piperidin-4-yl)carbamate | N=1N=C(N2C3=C(NC4=C(C21)C=CC=C4)N=CC=C3)C3=CC=C(C(=O)N4CCC(CC4)NC(OC(C)(C)C)=O)C=C3 | C30H31N7O3
